US06458806B1
Step C: Preparation of N-piperidinopropyl-5-(3,4-dichlorophenyl) -3-methyl-pentadiene carboxamide
A suspension of 5-(3,4-dichlorophenyl)-3-methyl-pentadienoic acid (0.100 g, 0.390 mmol) in CH2Cl2 (5 mL) is treated with triethyl-amine (0.050 cr, 0.050 mmol) and cooled to 0° C. The resulting colorless solution is then treated with isobutyl chloroformate (0.065 g, 0.050 mmol). After 30 min., piperidino-propylamine (0.071 g, 0.050 mmol) is added, and the reaction mixture is allowed to warm to room temperature. After stirring overnight, the reaction mixture is quenched with aqueous sodium bicarbonate. The aqueous layer is extracted several times with CH2Cl2, and the combined organic layers are dried (sodium sulfate), and concentrated in vacuo. The residue is treated with excess methanolic HCl, evaporated in vacuo, and rinsed with ether to yield 0.159 g of a hygroscopic white solid, mp 50-60° C.

reactant | 5-(3,4-dichlorophenyl)-3-methyl-pentadienoic acid | 0.390 mmol, 0.100 g | ClC=1C=C(C=CC1Cl)C=CC(=CC(=O)O)C | C12H10Cl2O2
reactant | triethyl-amine | 0.050 mmol | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.050 mmol, 0.065 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | piperidino-propylamine | 0.050 mmol, 0.071 g | N1(CCCCC1)NCCC | C8H18N2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-piperidinopropyl-5-(3,4-dichlorophenyl) -3-methyl-pentadiene carboxamide | 0.159 g | N1(CCCCC1)CCCNC(=O)C=CC(=CCC1=CC(=C(C=C1)Cl)Cl)C | C21H28Cl2N2O
